US07169808B2
Preparation of N-trifluoroacetyl-aspartic anhydride (1)
Aspartic acid (100 g: 0.75 mol) is suspended in trifluoroacetic acid (300 ml) and cooled under mechanical agitation in an ice and salt bath; trifluoroacetic acid (300 ml: 2.16 mol) is added drop-wise, adjusting the addition so that the temperature does not rise above 10° C. On completing the addition, the suspension is left for half an hour under vigorous stirring at a temperature below 10° C., after which the temperature is allowed to rise slowly to room temperature. The solution is reacted for 2 hours at 45° C. and for 1 night at room temperature. Extraction is done with acetone (300 ml) and cooling to solubilise the mass which is of very firm consistency and the solution is then concentrated to dryness. The solid obtained is washed twice with 500 cc of n-hexane and then with 1 liter of n-hexane/ethyl ether at a ratio of 4:1, triturating and vacuum filtering. 135 g of product are obtained which can be used as such if the analyses are compliant. The product is crystallised by n-hexane/EtOAc obtaining 119 g of product which is vacuum dried thoroughly at 40° C. Yield 75%.

reactant | Aspartic acid | 0.75 mol, 100 g | N[C@@H](CC(=O)O)C(=O)O | C4H7NO4
reactant | trifluoroacetic acid | 300 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | trifluoroacetic acid | 2.16 mol, 300 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-trifluoroacetyl-aspartic anhydride | 135 g, Yield 75% | FC(C(=O)N[C@H]1CC(=O)OC1=O)(F)F | C6H4F3NO4
